US04176184
(a) 7,7-Dimethyl-2-phenethyl-5-(2-chloro-ethyl)-5H,7H-imidazo-[4,5-h]isoquinoline-4,6-dione
Prepared analogous to Example 23 at room temperature from 4.3 gm of 7,7-dimethyl-2-phenethyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione and 2.2 gm of 2-bromo-1-chloro-ethane. The viscous oily crude product was directly further processed.

reactant | 7,7-dimethyl-2-phenethyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | 4.3 gm | CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)CCC3=CC=CC=C3)C | C20H19N3O2
reactant | 2-bromo-1-chloro-ethane | 2.2 gm | BrCCCl | C2H4BrCl
product | 7,7-Dimethyl-2-phenethyl-5-(2-chloro-ethyl)-5H,7H-imidazo-[4,5-h]isoquinoline-4,6-dione | CC1(N=CC2=C3C(C(C(C2C1=O)CCCl)=O)=NC(=N3)CCC3=CC=CC=C3)C | C22H22ClN3O2
